US07902229B2
To a stirred solution of 2,3-dimethyl-2H-indazol-6-ylamine (60 mg, 0.34 mmol) in DCE (1.5 mL) at 0° C., under nitrogen, was added trimethylaluminium (2M in toluene, 0.35 mL, 0.7 mmol), followed by a solution of 2-{[2-(3,3-dimethyl-ureido)-pyridin-4-ylmethyl]-amino}-benzoic acid methyl ester (111 mg, 0.34 mmol) in DCE (1.5 mL). The reaction was heated at 100° C. (bath temperature) for 5 hours. On cooling the reaction was poured onto saturated aqueous sodium hydrogencarbonate solution and diluted with dichloromethane. The mixture was stirred for 15 minutes before filtering through Celite®. The organic phase was washed with water and brine, dried, and concentrated in vacuo. The residue was purified by repeated chromatography on Isolute® flash silica gel (Separtis) (Gradient elution: 100% CH2Cl2 to CH2Cl2/EtOH 95:5) to give N-(2,3-dimethyl-2H-indazol-6-yl)-2-{[2-(3,3-dimethyl-ureido)-pyridin-4-ylmethyl]-amino}-benzamide (23 mg, 15%) as a solid; 1H-NMR (300 MHz, d6-DMSO) 10.10 (1H, s), 8.79 (1H, s), 8.15 (1H, d), 8.00 (1H, s), 7.95 (1H, t), 7.82 (1H, s), 7.70-7.73 (1H, m), 7.60 (1H, d), 7.22-7.29 (2H, m), 6.93-6.95 (1H, m), 6.67 (1H, t), 6.53 (1H, d), 4.45 (2H, d), 4.01 (3H, s), 2.91 (6H, s), 2.59 (3H, s); m/z (ES+) 458 [M+H]+, 230.

reactant | 2,3-dimethyl-2H-indazol-6-ylamine | 0.34 mmol, 60 mg | CN1N=C2C=C(C=CC2=C1C)N | C9H11N3
reactant | trimethylaluminium | 0.7 mmol, 2M, 0.35 mL | C[Al](C)C
reactant | 2-{[2-(3,3-dimethyl-ureido)-pyridin-4-ylmethyl]-amino}-benzoic acid methyl ester | 0.34 mmol, 111 mg | COC(C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N(C)C)=O | C17H20N4O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DCE | 1.5 mL | ClCCCl | C2H4Cl2
solvent | DCE | 1.5 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,3-dimethyl-2H-indazol-6-yl)-2-{[2-(3,3-dimethyl-ureido)-pyridin-4-ylmethyl]-amino}-benzamide | 23 mg, 15% | CN1N=C2C=C(C=CC2=C1C)NC(C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N(C)C)=O | C25H27N7O2
